US08748624B2
STEP F: ethyl 3-(5-(3-chloro-2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate
N-(2-bromo-6-chloro-4-(trifluoromethyl)benzyl)-2′,4′-dichloro-[1,1′-biphenyl]-4-amine (4.5 g, 8.8 mmol) and ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (3.1 g, 8.8 mmol), Pd(dppf)Cl2 (321 mg, 0.4 mmol), and 2 M K2CO3 (aq) (8.8 mL, 17.6 mmol) were dissolved in 1,4-dioxane (35 mL) and heated to 80° C. After 1 h the reaction was cooled to room temperature diluted with EtOAc and 4M aqueous NaCl, and the layers were separated. The aqueous layer was extracted with EtOAc and the combined organics were dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | N-(2-bromo-6-chloro-4-(trifluoromethyl)benzyl)-2′,4′-dichloro-[1,1′-biphenyl]-4-amine | 8.8 mmol, 4.5 g | BrC1=C(CNC2=CC=C(C=C2)C2=C(C=C(C=C2)Cl)Cl)C(=CC(=C1)C(F)(F)F)Cl | C20H12BrCl3F3N
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 8.8 mmol, 3.1 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 17.6 mmol, 2 M, 8.8 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaCl | 4M | [Na+].[Cl-]
catalyst | Pd(dppf)Cl2 | 0.4 mmol, 321 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(3-chloro-2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | ClC=1C(=C(C=C(C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CNC1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)Cl | C31H25Cl3F3N3O3
